US07326791B2
(b) C-(6-chloroquinolin-2-yl)methylamine
A solution of 0.78 g (3.79 mmol) of 6-chloroquinoline-2-carbaldehydeoxime in 30 mL of saturated ammoniacal methanol and 10 mL of tetrahydrofuran is hydrogenated with Raney nickel for 48 hours at 3 bar hydrogen pressure. The catalyst is filtered off and the solution is concentrated. The residue is chromatographed on silica gel, eluting with a gradient of dichloromethane/methanol (90:10) to dichloromethane/methanol/25% aqueous ammonia (90:10:1). The corresponding fractions are combined and concentrated by evaporation. Yield: 0.33 g (45% of theory); Rf value: 0.43 (silica gel; dichloromethane/methanol=9:1); C10H9ClN2 (192.65); mass spectrum: (M+H)+=193/195 (chlorine isotope).

reactant | 6-chloroquinoline-2-carbaldehydeoxime | 3.79 mmol, 0.78 g | ClC=1C=C2C=CC(=NC2=CC1)C=NO | C10H7ClN2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | C-(6-chloroquinolin-2-yl)methylamine | ClC=1C=C2C=CC(=NC2=CC1)CN | C10H9ClN2
